* gnetlist -g spice-noqsi -o Class_C_amplifier.net Class_C_amplifier.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./Bipolar_Junction_Transistor.lib
Rb GND 1 1000      
Cin Vin 1 1uF      
Vd Vdd GND 3.3V
Q1 Vout 1 GND npndie   
Vin Vin GND dc 1 ac 1 sin(0 1 15.9154943092MEG)
C1 Vdd 2 100nF      
L1 2 Vdd 1nH  
Rtank 2 Vdd 10      
V_IP1 2 Vout DC 0V  
.control
dc Vin 0 10 0.1
ac lin 1000000 15.915492024Meg 15.915492033Meg
plot Vin Vout
tran 1n 3u
plot Vin Vout 
plot i(V_IP1)
noise v(Vin) Vin lin 100 1 100Meg
setplot noise1
let noise_figure=db(inoise_spectrum)/2-db(2*sqrt(boltz*290*50))
plot noise_figure
.endc

